US07888352B2
To a solution of 2,5-dibromopyridine (1.00 g) in toluene (10 mL) and ethanol (5 mL) was added phenylboronic acid (515 mg), sodium carbonate (1.34 g) and tetrakis (triphenylphosphine)palladium(0) (24 mg) and the reaction mixture was heated at reflux for 16 h. After cooling to room temperature, the reaction was quenched with water (30 mL) and extracted into ethylacetate (2×30 mL). The organic layers were washed with brine (40 mL), dried (MgSO4), reduced in vacuo and purified on silica to give 5-bromo-2-phenyl-pyridine as a white solid.

reactant | 2,5-dibromopyridine | 1.00 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | phenylboronic acid | 515 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 1.34 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 5-bromo-2-phenyl-pyridine | BrC=1C=CC(=NC1)C1=CC=CC=C1 | C11H8BrN
